Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Solu-Medrol / Nsaids
 
Attending: ___.
 
Chief Complaint:
bilateral upper extremity pain, paresthesias, and weakness
 
Major Surgical or Invasive Procedure:
FUSION CERVICAL ANTERIOR C5-C7 with Neuromonitoring on ___ 
with Dr. ___

 
___ of Present Illness:
___ w narcolepsy, CVID, neurologist at BI p/w BUE pain, 
dystesthesias, and weakness s/p fall down 20+ stairs this 
evening after missing a step.  + HS, - LOC. States that she 
could not initially move legs or arms, but this subsided. 

 
Past Medical History:
Monoclonal IgA kappa
Hypogammaglobulinemia
hypertension
narcolepsy
knee surgery with synovectomy in ___
 
Social History:
___
Family History:
She does not have a family history of immune deficiency or 
hematologic malignancy.
 
Physical Exam:
PE:
NAD, A&Ox4
nl resp effort
RRR
  
Sensory:
UE 
       C5         C6           C7        C8           T1
     (lat arm)  (thumb)     (mid fing) (sm finger)  (med arm)
R     SILT       SILT        dys        dys         SILT
L     SILT       SILT        dys        dys         SILT

___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
UE   Dlt(C5) Bic(C6) WE(C6) Tri(C7) WF(C7) FF(C8)FinAbd(T1)
R      5       5       4      5       5      4     5
L      5       4       4      5       5      4     5

___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

              
___: Negative
Clonus: No beats

 
Pertinent Results:
___ 01:10AM BLOOD WBC-7.1 RBC-3.58* Hgb-11.5 Hct-34.4 
MCV-96 MCH-32.1* MCHC-33.4 RDW-12.1 RDWSD-42.6 Plt ___
___ 09:16AM BLOOD WBC-6.5 RBC-4.00 Hgb-12.7 Hct-38.1 MCV-95 
MCH-31.8 MCHC-33.3 RDW-11.9 RDWSD-41.6 Plt ___
___ 11:32PM BLOOD WBC-6.8 RBC-4.06 Hgb-13.0 Hct-39.7 MCV-98 
MCH-32.0 MCHC-32.7 RDW-12.1 RDWSD-43.7 Plt ___
___ 09:16AM BLOOD Neuts-92.4* Lymphs-6.0* Monos-1.1* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-5.99 AbsLymp-0.39* 
AbsMono-0.07* AbsEos-0.00* AbsBaso-0.01
___ 01:10AM BLOOD Plt ___
___ 09:16AM BLOOD Plt ___
___ 09:16AM BLOOD ___ PTT-29.8 ___
___ 11:32PM BLOOD ___ 01:10AM BLOOD Glucose-119* UreaN-9 Creat-0.5 Na-137 
K-3.5 Cl-101 HCO3-24 AnGap-12
___ 09:16AM BLOOD Glucose-165* UreaN-10 Creat-0.6 Na-138 
K-4.1 Cl-101 HCO3-24 AnGap-13
___ 11:32PM BLOOD Glucose-120* UreaN-14 Creat-0.8 Na-143 
K-3.6 Cl-104 HCO3-24 AnGap-15
___ 11:32PM BLOOD LD(LDH)-256*
___ 11:32PM BLOOD Lipase-25
___ 01:10AM BLOOD Calcium-8.4 Phos-3.5 Mg-1.8
___ 09:16AM BLOOD Calcium-9.1 Phos-2.6* Mg-1.9
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. Physical therapy and 
Occupational therapy were consulted for mobilization OOB to 
ambulate and ADL's.
Hospital course was otherwise unremarkable.On the day of 
discharge the patient was afebrile with stable vital signs, 
comfortable on oral pain control and tolerating a regular diet.
 
Medications on Admission:
Medications - Prescription
ARMODAFINIL [NUVIGIL] - Nuvigil 250 mg tablet. 0.5 (One half)
tablet by mouth twice each day.
BUDESONIDE-FORMOTEROL [SYMBICORT] - Symbicort 160 mcg-4.5
mcg/actuation HFA aerosol inhaler. 2 puffs inhaled twice daily
CHLORTHALIDONE - chlorthalidone 25 mg tablet. 1 tablet(s) by
mouth once a day -  (Dose adjustment - no new Rx)
CLOBETASOL - clobetasol 0.05 % topical ointment. apply at 
bedtime
CODEINE-GUAIFENESIN [GUAIFENESIN AC] - Guaifenesin AC 10 mg-100
mg/5 mL oral liquid. ___ ml by mouth every eight (8) hours as
needed for cough Dispense 150cc bottle
FEXOFENADINE - fexofenadine 180 mg tablet. 1 tablet(s) by mouth
once prior to IVIG treatment
FEXOFENADINE - fexofenadine 60 mg tablet. 1 tablet(s) by mouth
twice as needed for allergic rhinitis
IMMUN GLOB G(IGG)-PRO-IGA ___ [___] - Hizentra 4 gram/20 
mL
(20 %) subcutaneous solution. 10 grams every 10 days
LAMOTRIGINE - lamotrigine 150 mg tablet. 1 tablet(s) by mouth
once a day
LIDOCAINE-PRILOCAINE - lidocaine-prilocaine 2.5 %-2.5 % topical
cream. apply to area 1 hour before procedure one time as needed
for prn pain -  (Not Taking as Prescribed: Discontinued)
LORAZEPAM - Dosage uncertain -  (Prescribed by Other Provider:
0.5  mg 1x bedtime )
OSELTAMIVIR - oseltamivir 75 mg capsule. 1 capsule(s) by mouth
daily for ongoing flu prophylaxis.
 
Medications - OTC
ASPIRIN, BUFFERED - aspirin, buffered 325 mg tablet. one
Tablet(s) by mouth DAILY please take daily for one month to
prevent blood clots -  (Not Taking as Prescribed)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
no more than 4G/24H  
2.  Bisacodyl 10 mg PO/PR DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: GI upset with oxycodone
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every 
four (4) hours Disp #*40 Tablet Refills:*0 
5.  Pregabalin 100 mg PO BID  
6.  Chlorthalidone 25 mg PO DAILY  
7.  Clobetasol Propionate 0.05% Ointment 1 Appl TP QHS  
8.  LamoTRIgine 150 mg PO DAILY  
9.  LORazepam 0.5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
C5-6, C6-7 disc herniation c/b cord impingement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
ACDF:

You have undergone the following operation:Anterior Cervical 
Decompression and Fusion.

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit in a car or chair for more than~45 minutes without 
getting up and walking around. 

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.  

•                Swallowing:Difficulty swallowing is not 
uncommon after this type of surgery.This should resolve over 
time.Please take small bites and eat slowly.Removing the collar 
while eating can be helpful–however,please limit your movement 
of your neck if you remove your collar while eating.

•                Cervical Collar / Neck Brace:If you have been 
given a soft collar for comfort, you may remove the collar to 
take a shower or eat.Limit your motion of your neck while the 
collar is off.You should wear the collar when walking,especially 
in public.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery,do not get the incision wet.Call the office at that 
time. f you have an incision on your hip please follow the same 
instructions in terms of wound care.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so plan ahead.You can either have them 
mailed to your home or pick them up at the clinic located on 
___.We are not allowed to call in narcotic 
(oxycontin,oxycodone,percocet) prescriptions to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

               Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

                At the 2-week visit we will check your 
incision,take baseline x rays and answer any questions.

                We will then see you at 6 weeks from the day of 
the operation.At that time we will most likely obtain 
Flexion/Extension X-rays and often able to place you in a soft 
collar which you will wean out of over 1 week.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit, drainage from your wound,or have any questions.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
C-collar at all times X 6 weeks. ___ remove for hygiene
Treatments Frequency:
Remove the dressing in 2 days.If the incision is draining cover 
it with a new sterile dressing.If it is dry then you can leave 
the incision open to the air.Once the incision is completely dry 
(usually ___ days after the operation) you may take a shower.Do 
not soak the incision in a bath or pool.If the incision starts 
draining at anytime after surgery,do not get the incision 
wet.Call the office at that time.
 
Followup Instructions:
___